US07423050B2
9. 2-Trifluoromethyl-4-fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt
Combine 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.19 g, 0.87 mmol), 2-trifluoromethyl-4-fluoro-benzoyl chloride (0.395 g, 1.74 mmol), and 1,4-Dioxane (50 mL). Stir and heat the mixture at reflux. After 3 hr., cool the reaction mixture to ambient temperature and concentrate. Load the mixture onto an SCX column (10 g), wash with methanol, and elute with 2M ammonia/methanol. Concentrate the eluent to obtain the free base of the title compound as an oil (0.241 g, 68%). Dissolve the oil in methanol (5 mL) and treat with ammonium chloride (0.031 g, 0.59 mmol). Concentrate and dry under vacuum to obtain the title compound. HRMS Obs. m/z 410.1490, Calc. 410.1491; m.p. 145-150° C.

reactant | 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.87 mmol, 0.19 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 2-trifluoromethyl-4-fluoro-benzoyl chloride | 1.74 mmol, 0.395 g | FC(C1=C(C(=O)Cl)C=CC(=C1)F)(F)F | C8H3ClF4O
solvent | 1,4-Dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-Trifluoromethyl-4-fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt | 0.241 g, 68% | Cl.FC(C1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C=CC(=C1)F)(F)F | InChI=1S/C20H19F4N3O2.ClH/c1-27-9-7-12(8-10-27)18(28)16-3-2-4-17(25-16)26-19(29)14-6-5-13(21)11-15(14)20(22,23)24;/h2-6,11-12H,7-10H2,1H3,(H,25,26,29);1H
